US05175177
a) 3,5-Dichloro-4-(3-ethinylpropoxy)benzonitrile
A mixture of 10.0 g 3,5-dichloro-4-hydroxybenzonitrile, 6.2 mls 5-chloro-1-pentyne, 18.38 g milled potassium carbonate (100%) and 0.88 g potassium iodide in 125 mls N-methylpyrrolidone was heated at 60° C. with stirring overnight. An additional 4.6 g milled potassium carbonate and 2.82 mls 5-chloro-1-pentyne was added and heating was continued for two days. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate extracts were washed with aqueous 10% potassium bisulfate solution, water and saturated sodium chloride solution, dried (MgSO4) and concentrated in vacuo. The resulting oily residue was subjected to flash chromatography (silica gel; 10:90 ethyl acetate/hexane) to yield 7.03 g of the title compound.

reactant | 3,5-dichloro-4-hydroxybenzonitrile | 10.0 g | ClC=1C=C(C#N)C=C(C1O)Cl | C7H3Cl2NO
reactant | 5-chloro-1-pentyne | 6.2 mls | ClCCCC#C | C5H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.88 g | [I-].[K+]
reactant | 5-chloro-1-pentyne | 2.82 mls | ClCCCC#C | C5H7Cl
solvent | N-methylpyrrolidone | 125 mls | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 3,5-Dichloro-4-(3-ethinylpropoxy)benzonitrile | 7.03 g | ClC=1C=C(C#N)C=C(C1OCCCC#C)Cl | C12H9Cl2NO
